US04891363
Diethyl 2-[5-(2-methoxyethoxy)methoxypentyl]malonate
A solution of 37.80 of diethyl malonate dissolved in 20 ml of absolute ethanol was added dropwise to a solution of sodium ethoxide prepared by gradually adding 3.00 g of metallic sodium to 30 ml of absolute ethanol. To the mixture was added a solution of 30.01 g of 1-bromo-5-(2-methoxyethoxy)methoxypentane (prepared as described in Preparation 60) dissolved in 10 ml of absolute ethanol. The mixture was heated under reflux for 21 hours, after which it was allowed to cool, and then the solvent was distilled off. The residue was mixed with water, and the mixture was extracted three times with ethyl acetate. The combined extracts were washed with water, dried over anhydrous magnesium sulfate and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 850 g of silica gel, and 32.78 g of the title compound were obtained, as a colorless oil, from those fractions eluted with a 4:1 by volume mixture of hexane and ethyl acetate.

reactant | diethyl malonate | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 3.00 g | [Na] | Na
reactant | 1-bromo-5-(2-methoxyethoxy)methoxypentane | 30.01 g | BrCCCCCOCOCCOC | C9H19BrO3
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | Diethyl 2-[5-(2-methoxyethoxy)methoxypentyl]malonate | 32.78 g | COCCOCOCCCCCC(C(=O)OCC)C(=O)OCC | C16H30O7
